US07238758B2
(Synthesis of Diethylaminotriethoxysilane)
Comparative experiment 6 to The reacted product 13 was performed by direct amino group substitution of tetraethoxy silane not via Grignard reagent. Namely, a 200 mL-volume flask, equipped with an agitating blade and a soxhlet extractor loaded with a monocular shive 4A-stuffed cylindrical paper filter, was employed, of which inside was substituted for nitrogen using a vacuum pump. Then, 83.3 g (0.40 mol) of tetraethoxysilane and 73.1 g (1.0 mol) of diethylamine were fed into the flask, and heated and revolved for 8 hours. Analysis of the resultant reacted solution by gas chromatography confirmed no target amino-substituted product but tetraethoxysilane of the starting substance only.

reactant | tetraethoxy silane | C(C)O[Si](OCC)(OCC)OCC | C8H20O4Si
reactant | tetraethoxysilane | 0.40 mol, 83.3 g | C(C)O[Si](OCC)(OCC)OCC | C8H20O4Si
reactant | diethylamine | 1.0 mol, 73.1 g | C(C)NCC | C4H11N
product | Diethylaminotriethoxysilane | C(C)N(CC)[Si](OCC)(OCC)OCC | C10H25NO3Si
